US07396847B2
1-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-1H-1,2,3-triazole
5-Azidomethyl-3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazole (500 mg, 1.74 mmol) and bicyclo[2.2.1]hepta-2,5-diene (1 ml) were combined with dioxane (2 ml) and subjected to microwave radiation in a Smith Personal Synthesizer for 900 seconds at 125° C. The reaction mixture was concentrated in vacuo and ethyl acetate (5 ml) was added. The precipitate was filtered and washed with ethyl acetate (2×5 ml) to give the desired product (234 mg).

reactant | 5-Azidomethyl-3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazole | 1.74 mmol, 500 mg | N(=[N+]=[N-])CC1CC(=NO1)C=1SC(=CC1)Br | C8H7BrN4OS
reactant | bicyclo[2.2.1]hepta-2,5-diene | 1 ml | C12C=CC(C=C1)C2 | C7H8
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-1H-1,2,3-triazole | 234 mg | BrC1=CC=C(S1)C1=NOC(C1)CN1N=NC=C1 | C10H9BrN4OS
